US07585878B2
In 5 ml of N,N-dimethylacetamide was dissolved 230 mg of N-(4-methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)-2-(piperidin-1-ylmethyl)biphenyl-4-carboxamide, and then 252 mg of m-chloroperbenzoic acid was added under ice cooling, followed by 24 hours of stirring at room temperature. To the reaction solution was added 5 ml of water and 1016 mg of sodium hydrogen sulfite as two divided portions, followed by 2 hours of stirring at room temperature. Water was added to the reaction system, the organic layer was extracted with ethyl acetate and dried over anhydrous sodium sulfate, and the solvent was removed by evaporation. The obtained residue was purified by silica gel column chromatography (chloroform:methanol:aqueous ammonia) to obtain a yellow oil. It was dissolved in 5 ml of ethyl acetate and then 1 ml of a 4M ethyl acetate solution of hydrochloric acid was added thereto. The solvent was removed by evaporation and the resulting solid was recrystallized from ethanol to obtain 61 mg of N-(4-methyl-1,1-dioxo-3-oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)-2-(piperidin-1-ylmethyl)biphenyl-4-carboxamide hydrochloride as a white powder.

reactant | N-(4-methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)-2-(piperidin-1-ylmethyl)biphenyl-4-carboxamide | 230 mg | CN1C(CSC2=C1C=C(C=C2)NC(=O)C2=CC(=C(C=C2)C2=CC=CC=C2)CN2CCCCC2)=O | C28H29N3O2S
reactant | m-chloroperbenzoic acid | 252 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen sulfite | 1016 mg | S(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4M | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | water | 5 ml | O | H2O
product | N-(4-methyl-1,1-dioxo-3-oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)-2-(piperidin-1-ylmethyl)biphenyl-4-carboxamide hydrochloride | 61 mg | Cl.CN1C(CS(C2=C1C=C(C=C2)NC(=O)C2=CC(=C(C=C2)C2=CC=CC=C2)CN2CCCCC2)(=O)=O)=O | InChI=1S/C28H29N3O4S.ClH/c1-30-25-17-23(11-13-26(25)36(34,35)19-27(30)32)29-28(33)21-10-12-24(20-8-4-2-5-9-20)22(16-21)18-31-14-6-3-7-15-31;/h2,4-5,8-13,16-17H,3,6-7,14-15,18-19H2,1H3,(H,29,33);1H
